US08536183B2
1,1-dimethylethyl (2R)-4-[(4-cyano-2-methylphenyl)sulfonyl]-2-methyl-1-piperazinecarboxylate
Ar was bubbled through a solution of 1,1-dimethylethyl (2R)-4-[(4-bromo-2-methylphenyl)sulfonyl]-2-methyl-1-piperazinecarboxylate (may be prepared as described in Description 18) (4.34 g, 10.0 mmol) in dry DMF (40 ml) for 30 min, then Zn(CN)2 (0.647 g, 5.51 mmol), Pd2 (dba)3 (0.275 g, 0.300 mmol) and DPPF (0.333 g, 0.601 mmol) were added and the resulting brown solution stirred at 120° C. under Ar for 1 h. The mixture was cooled to room temperature, concentrated under vacuum and the residue partitioned between DCM (100 ml) and water (100 ml). The aqueous layer was extracted with DCM (2×50 ml), then the combined organic layers passed through a hydrophobic frit. Concentration gave a brown residue that was purified by flash chromatography (silica; Flash 40M; linear gradient (8-66%) EtOAc in isohexane) to give the title compound as a viscous pale yellow oil (3.42 g).

reactant | 1,1-dimethylethyl (2R)-4-[(4-bromo-2-methylphenyl)sulfonyl]-2-methyl-1-piperazinecarboxylate | 10.0 mmol, 4.34 g | BrC1=CC(=C(C=C1)S(=O)(=O)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C)C | C17H25BrN2O4S
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 5.51 mmol, 0.647 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2 (dba)3 | 0.300 mmol, 0.275 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.601 mmol, 0.333 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1,1-dimethylethyl (2R)-4-[(4-cyano-2-methylphenyl)sulfonyl]-2-methyl-1-piperazinecarboxylate | 3.42 g | C(#N)C1=CC(=C(C=C1)S(=O)(=O)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C)C | C18H25N3O4S
